US07612084B2
N-(5-{(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[(2-{4-[(5-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}pentyl)oxy]phenyl}ethyl)amino]ethyl}-2-hydroxyphenyl)methanesulfonamide
N-[2-(benzyloxy)-5-{(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[(2-{4-[(5-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}pentyl)oxy]phenyl}ethyl)amino]ethyl}phenyl]methanesulfonamide (Preparation 60, 350 mg, 0.37 mmol) was dissolved in ethanol (10 ml) and ammonium formate (1.0 g, 16 mmol) and 20% palladium hydroxide on carbon (250 mg) were added and heated to 90° C. for 1 hour. Reaction mixture was then cooled and filtered through Arbocel and the solvent removed in vacuo to furnish the title compound as a colourless oil, 250 mg.

reactant | N-[2-(benzyloxy)-5-{(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[(2-{4-[(5-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}pentyl)oxy]phenyl}ethyl)amino]ethyl}phenyl]methanesulfonamide | 0.37 mmol, 350 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CNCCC1=CC=C(C=C1)OCCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)NS(=O)(=O)C | C56H79N3O6SSi
reactant | ammonium formate | 16 mmol, 1.0 g | C(=O)[O-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 250 mg | [OH-].[OH-].[Pd+2]
product | N-(5-{(1R)-1-{[tert-butyl(dimethyl)silyl]oxy}-2-[(2-{4-[(5-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}pentyl)oxy]phenyl}ethyl)amino]ethyl}-2-hydroxyphenyl)methanesulfonamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCCC1=CC=C(C=C1)OCCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C49H73N3O6SSi
